US04405789
0.38 g of lithium aluminum hydride are introduced progressively and portionwise into 20 ml of dry tetrahydrofuran, under an atmosphere of nitrogen. The suspension obtained is cooled to 0° C., then a solution of 1.6 g of 3-chloro-6-methoxy-4-[2-(1-ethoxycarbonyl-4-piperidyl)-ethyl]-quinoline in tetrahydrofuran is added drop by drop. The reaction medium is maintained for 3 hours in an ice bath, then 0.45 ml of water, 0.33 ml of a 5 N aqueous solution of sodium hydroxide and 15 ml of water are added, very slowly and in the order given. The insoluble mineral products formed are separated by filtration and washed twice with 30 ml of methylene chloride. The filtrate and the washings are collected, dried over magnesium sulfate, then concentrated by evaporation. The residue obtained is fixed on a column of silica and eluted with a 90/10 mixture of chloroform and diethylamine. 0.9 g of 3-chloro-6-methoxy-4-[2-(1-methyl-4-piperidyl)-ethyl]-quinoline are thus obtained, the hydrochloride of which is amorphous.

reactant | lithium aluminum hydride | 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-chloro-6-methoxy-4-[2-(1-ethoxycarbonyl-4-piperidyl)-ethyl]-quinoline | 1.6 g | ClC=1C=NC2=CC=C(C=C2C1CCC1CCN(CC1)C(=O)OCC)OC | C20H25ClN2O3
reactant | water | 0.45 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-chloro-6-methoxy-4-[2-(1-methyl-4-piperidyl)-ethyl]-quinoline | 0.9 g | ClC=1C=NC2=CC=C(C=C2C1CCC1CCN(CC1)C)OC | C18H23ClN2O
